* -------------------------------------------------------------------------------------------
* s7bit_DAC_l1 -- N1.  A 7-bit voltage-mode R-2R DAC built from Level-1 CMOS switches.
*
* Same eleven pins, in the same order, as test2/dac_model/8bit_DAC/7bit_DAC.sub:
*
*     .subckt s7bit_DAC  vrefh vrefl d0 d1 d2 d3 d4 d5 d6 vdd vout
*
* so it drops straight into the netlists that use the sky130 part.
*
* Topology
* --------
* The sky130 original is a *recursive interpolating* converter: a 7-bit DAC is two 6-bit DACs
* whose outputs are selected by a transmission gate, all the way down to a four-resistor string.
* That structure works, but the two halves load each other through a node that nothing drives,
* which is where its 2.5 LSB of INL and its non-monotonicity come from.
*
* This is a plain R-2R ladder instead:
*
*     vrefl --2R-- a0 --R-- a1 --R-- ... --R-- a6 --> vout
*                   |        |                 |
*                  2R       2R                2R
*                   |        |                 |
*                  t0       t1                t6        (each t_k switched to vrefh or vrefl)
*
* Every branch node sees the same 2R looking each way, so the ladder halves the contribution of
* each bit exactly and
*
*     vout = vrefl + (vrefh - vrefl) * code / 128,     code = sum_k d_k 2^k,
*
* i.e. full scale is 127/128 of the reference -- 3.2742 V from a 3.3 V reference, and an LSB of
* 3.3/128 = 25.781 mV.  Those are the two numbers the sky130 reference measures (3.2742 V and
* 25.781 mV): the R-2R ladder reproduces them by construction rather than by calibration,
* because they are properties of the *reference and the bit count*, not of the topology.
*
* Output resistance and settling
* ------------------------------
* The Thevenin resistance seen at a6 is exactly R (= rlad), independently of the code -- one of
* the reasons to prefer R-2R.  ``cload`` is the routing/pad capacitance at the output and is
* what sets the settling time: the sky130 part settles to 1% in 2.73 ns, and ``cload`` is
* calibrated (by n1_dac.py) so that this one does too.
*
* Parameters
* ----------
*   rlad    ladder resistance R [Ohm]; the legs are 2*rlad
*   cload   output capacitance [F]
* -------------------------------------------------------------------------------------------

.subckt s7bit_DAC_l1 vrefh vrefl d0 d1 d2 d3 d4 d5 d6 vdd vout rlad=2k cload=0.2742538p

* Bit switches: t_k = vrefh when d_k is high, vrefl when it is low.
xsw0 d0 vdd vrefh vrefl t0 switch_l1
xsw1 d1 vdd vrefh vrefl t1 switch_l1
xsw2 d2 vdd vrefh vrefl t2 switch_l1
xsw3 d3 vdd vrefh vrefl t3 switch_l1
xsw4 d4 vdd vrefh vrefl t4 switch_l1
xsw5 d5 vdd vrefh vrefl t5 switch_l1
xsw6 d6 vdd vrefh vrefl t6 switch_l1

* The 2R legs.
rleg0 t0 a0 'rlad*2'
rleg1 t1 a1 'rlad*2'
rleg2 t2 a2 'rlad*2'
rleg3 t3 a3 'rlad*2'
rleg4 t4 a4 'rlad*2'
rleg5 t5 a5 'rlad*2'
rleg6 t6 a6 'rlad*2'

* The ladder termination (the 2R that makes a0 see 2R both ways) and the R rungs.
rterm a0 vrefl 'rlad*2'
rlad0 a0 a1 'rlad'
rlad1 a1 a2 'rlad'
rlad2 a2 a3 'rlad'
rlad3 a3 a4 'rlad'
rlad4 a4 a5 'rlad'
rlad5 a5 a6 'rlad'

* Output node and its load capacitance.
rout a6 vout 1
cout vout 0 'cload'

.ends s7bit_DAC_l1

* -------------------------------------------------------------------------------------------
* s8bit_DAC_l1 -- the same ladder with one more bit.
*
* The sky130 part builds its 8-bit converter as two 7-bit converters plus a selecting switch,
* with the two halves sharing a node that nothing drives.  An R-2R ladder does not need that
* trick: an extra rung is an extra bit, the Thevenin resistance is still R, and the converter
* stays monotonic.  Full scale is vrefh * 255/256 and the LSB is vrefh/256 = 12.891 mV at
* vrefh = 3.3 V, i.e. exactly half the 7-bit LSB, as it should be.
*
* Pin order matches the 7-bit part with d7 appended before vdd, so it is the natural
* replacement for the `x*_1 / x*_2 / x*_3` triple the sky130 netlists use.
* -------------------------------------------------------------------------------------------

.subckt s8bit_DAC_l1 vrefh vrefl d0 d1 d2 d3 d4 d5 d6 d7 vdd vout rlad=2k cload=0.2742538p

xsw0 d0 vdd vrefh vrefl t0 switch_l1
xsw1 d1 vdd vrefh vrefl t1 switch_l1
xsw2 d2 vdd vrefh vrefl t2 switch_l1
xsw3 d3 vdd vrefh vrefl t3 switch_l1
xsw4 d4 vdd vrefh vrefl t4 switch_l1
xsw5 d5 vdd vrefh vrefl t5 switch_l1
xsw6 d6 vdd vrefh vrefl t6 switch_l1
xsw7 d7 vdd vrefh vrefl t7 switch_l1

rleg0 t0 a0 'rlad*2'
rleg1 t1 a1 'rlad*2'
rleg2 t2 a2 'rlad*2'
rleg3 t3 a3 'rlad*2'
rleg4 t4 a4 'rlad*2'
rleg5 t5 a5 'rlad*2'
rleg6 t6 a6 'rlad*2'
rleg7 t7 a7 'rlad*2'

rterm a0 vrefl 'rlad*2'
rlad0 a0 a1 'rlad'
rlad1 a1 a2 'rlad'
rlad2 a2 a3 'rlad'
rlad3 a3 a4 'rlad'
rlad4 a4 a5 'rlad'
rlad5 a5 a6 'rlad'
rlad6 a6 a7 'rlad'

rout a7 vout 1
cout vout 0 'cload'

.ends s8bit_DAC_l1
