* Subcircuit 2bit_DAC
.subckt s2bit_DAC vrefh vrefl d0 d1 vdd vout

.include switch.sub
r1  vrefh net-_r1-pad2_ 250
r2  net-_r1-pad2_ net-_r2-pad2_ 250
r3  net-_r2-pad2_ net-_r3-pad2_ 250
r4  net-_r3-pad2_ vrefl 250
x1 d0 vdd net-_r1-pad2_ net-_r2-pad2_ net-_x1-pad5_ switch
x2 d0 vdd net-_r3-pad2_ vrefl net-_x2-pad5_ switch
x3 d1 vdd net-_x1-pad5_ net-_x2-pad5_ vout switch
* Control Statements

.ends s2bit_DAC
