* Subcircuit 3bit_DAC
.subckt s3bit_DAC vrefh vrefl d0 d1 d2 vdd vout

.include 2bit_DAC.sub
.include switch.sub
x1 vrefh net-_x1-pad2_ d0 d1 vdd net-_x1-pad6_ s2bit_DAC
x2 net-_x1-pad2_ vrefl d0 d1 vdd net-_x2-pad6_ s2bit_DAC
x3 d2 vdd net-_x1-pad6_ net-_x2-pad6_ vout switch
* Control Statements

.ends s3bit_DAC