* Subcircuit 4bit_DAC
.subckt s4bit_DAC vrefh vrefl d0 d1 d2 d3 vdd vout

.include 3bit_DAC.sub
.include switch.sub
x1 vrefh net-_x1-pad2_ d0 d1 d2 vdd net-_x1-pad7_ s3bit_DAC
x2 net-_x1-pad2_ vrefl d0 d1 d2 vdd net-_x2-pad7_ s3bit_DAC
x3 d3 vdd net-_x1-pad7_ net-_x2-pad7_ vout switch
* Control Statements

.ends s4bit_DAC