* Subcircuit 5bit_DAC
.subckt s5bit_DAC vrefh vrefl d0 d1 d2 d3 d4 vdd vout

.include switch.sub
.include 4bit_DAC.sub
x1 vrefh net-_x1-pad2_ d0 d1 d2 d3 vdd net-_x1-pad8_ s4bit_DAC
x2 net-_x1-pad2_ vrefl d0 d1 d2 d3 vdd net-_x2-pad8_ s4bit_DAC
x3 d4 vdd net-_x1-pad8_ net-_x2-pad8_ vout switch
* Control Statements

.ends s5bit_DAC