* Subcircuit 6bit_DAC
.subckt s6bit_DAC vrefh vrefl d0 d1 d2 d3 d4 d5 vdd vout
* c:\fossee\esim\library\subcircuitlibrary\6bit_dac\6bit_dac.cir
.include switch.sub
.include 5bit_DACa.sub
x1 vrefh net-_x1-pad2_ d0 d1 d2 d3 d4 vdd net-_x1-pad9_ s5bit_DACa
x2 net-_x1-pad2_ vrefl d0 d1 d2 d3 d4 vdd net-_x2-pad9_ s5bit_DACa
x3 d5 vdd net-_x1-pad9_ net-_x2-pad9_ vout switch
* Control Statements

.ends s6bit_DAC
