* Subcircuit 7bit_DAC
.subckt s7bit_DAC vrefh vrefl d0 d1 d2 d3 d4 d5 d6 vdd vout

.include switch.sub
.include 6bit_DAC.sub
x1 vrefh net-_x1-pad2_ d0 d1 d2 d3 d4 d5 vdd net-_x1-pad10_ s6bit_DAC
x2 net-_x1-pad2_ vrefl d0 d1 d2 d3 d4 d5 vdd net-_x2-pad10_ s6bit_DAC
x3 d6 vdd net-_x1-pad10_ net-_x2-pad10_ vout switch
* Control Statements

.ends s7bit_DAC